US07592457B2
3-(4-hydroxy-phenyl)-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 13, using a 3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione (1.00 g, 3.55 mmol) and BBr3 (17.8 mL, 1.0 M solution in dichloromethane). After normal workup, the pure objective compound (0.47 g, 50%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3) δ 1.81 (s, 3H, CH3), 5.20 (br s, 1H, OH), 6.68 (d, J=8.9 Hz, 2H, ArH), 6.85-7.19 (m, 4H, ArH), 7.45-7.89 (m, 2H, ArH), 8.46 (br s, 1H, NH).

reactant | 3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 3.55 mmol, 1.00 g | COC1=CC=C(C=C1)C1(C(NC2=CC=CC=C2C1=O)=O)C | C17H15NO3
reactant | BBr3 | 1.0 M, 17.8 mL | B(Br)(Br)Br | BBr3
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-hydroxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.47 g, 50% | OC1=CC=C(C=C1)C1(C(NC2=CC=CC=C2C1=O)=O)C | C16H13NO3
